US09371320B2
A-1) To a solution of 1-methoxybutan-2-yl 4-methylbenzenesulfonate
To a solution of 1-methoxybutan-2-ol (1.10 mL) in pyridine (5 mL) was added dropwise a solution of 4-methylbenzenesulfonyl chloride (2.75 g) in pyridine (15 mL) over 30 min or more at 0° C. The reaction mixture was stirred overnight at room temperature, and poured into ice-water. The reaction mixture was stirred at 0° C. for 1 hr, and the precipitate was collected by filtration, and washed with cold water. The obtained solid was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.23 g).

reactant | 1-methoxybutan-2-ol | 1.10 mL | COCC(CC)O | C5H12O2
reactant | 4-methylbenzenesulfonyl chloride | 2.75 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 1-methoxybutan-2-yl 4-methylbenzenesulfonate | 2.23 g | CC1=CC=C(C=C1)S(=O)(=O)OC(COC)CC | C12H18O4S
